US06992083B2
To a stirred solution of 72 mg (0.42 mmol) 2-choromethyl-isonicotinic acid in 5 ml THF were added 183 mg (0.48 mmol) HATU and 0.08 ml (0.48 mmol) N-ethyldiisopropylamine and stirring continued at room temperature for 5 h. A solution of 80 mg (0.32 mmol) 4-methoxy-7-morpholin-4-yl-benzooxazol-2-yl-amine in 5 ml dioxane and 1 ml DMF was then added and stirring continued at 40° C. for 48 h. The reaction mixture was then poured into 50 ml water, acidified with 1 M aq. hydrochloric acid, and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (3/97 methanol/dichloromethane, then 10/90 methanol/dichloromethane) followed by trituration in ether afforded 8 mg (6%) 2-chloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzooxazol-2-yl)-isonicotinamide as an off-white crystalline solid. ES-MS m/e (%): 405 (M{37Cl}+H+, 35), 403 (M{35Cl}+H+, 100).

reactant | 2-choromethyl-isonicotinic acid | 0.42 mmol, 72 mg | ClCC=1C=C(C(=O)O)C=CN1 | C7H6ClNO2
reactant | HATU | 0.48 mmol, 183 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | 0.48 mmol, 0.08 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy-7-morpholin-4-yl-benzooxazol-2-yl-amine | 0.32 mmol, 80 mg | COC1=CC=C(C2=C1N=C(O2)N)N2CCOCC2 | C12H15N3O3
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 2-chloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzooxazol-2-yl)-isonicotinamide | 8 mg, 6% | ClCC=1C=C(C(=O)NC=2OC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C19H19ClN4O4
